US05352792
To a suspension of 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(1,2,3-triazol-4-yl) thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester (9.2 g: 9 mMol.) in a mixture of anisole (18 ml) and nitromethane (72 ml) is added dropwise a solution of aluminum chloride (9.6 g: 72 mMol.) in anisole (31 ml) at -30° C. After stirring for 1 hour at the same temperature, the reaction mixture is quenched with ethanol (25 ml), stirred for several minutes, diluted with 1N-hydrochloric acid (75 ml) and water (500 ml), and washed with ethyl acetate. The aqueous layer was separated, concentrated to remove the organic solvents, and passed through a column of styrene-divinylbenzene copolymer adsorbent. The product is eluted with a mixture of methanol and water (4:1) to give 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid as pale yellow powder (4.19 g). Yield: 90%.

reactant | 7β-[(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-(1,2,3-triazol-4-yl) thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester | 9 mMol, 9.2 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)CSC=2N=NNC2 | C52H46N8O6S4
reactant | aluminum chloride | 72 mMol, 9.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | anisole | 18 ml | C1(=CC=CC=C1)OC | C7H8O
solvent | nitromethane | 72 ml | [N+](=O)([O-])C | CH3NO2
solvent | anisole | 31 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7β-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-(1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid | 4.19 g, Yield: 90% | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2N=NNC2)C(=S)O)C1=O)=N/O | C15H14N8O4S4
